US07906652B2
5-(3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorophenyl)-1-methyl-1H-tetrazole
The reaction of mixture of 1.31 g (2.85 mmol) 5-(3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorophenyl)-1H-tetrazole, 0.36 mL (5.70 mmol) methyl iodide, and 1.77 mL (9.97 mmol) DIEA in 8 mL MeCN was heated to reflux for 2.5 h. Then it was concentrated to remove the solvents. Then it was added 20 mL of CH2Cl2 and 5 mL of water and adjust pH=7-8 with aq NaHCO3. The water layer was extracted with CH2Cl2, and the combined organic layer was concentrated. The residue was separated by silica gel chromatography with CH2Cl2/MeOH/NH3 (2M) in MeOH to afford the title compound; 1H-NMR(CDCl3) δ 1.22(d, 3H, J=22 Hz), 1.29(d, 3H, J=22 Hz), 2.37 (t, 1H, J=8 Hz), 2.90 (t, 1H, J=8 Hz), 3.00 (m, 1H), 3.14 (m, 1H), 3.22 (m, 1H), 3.68 (J, 1H, J=6 Hz), 4.19 (s, 3H), 4.26 (s, 1H), 7.12-7.43 (m, 13H); Mass Spectrum: m/e=474 (M+1).

reactant | 5-(3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorophenyl)-1H-tetrazole | 2.85 mmol, 1.31 g | C1(=CC=CC=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C=C(C1)F)C1=NN=NN1)C1=CC=CC=C1 | C27H27F2N5
reactant | methyl iodide | 5.70 mmol, 0.36 mL | CI | CH3I
reactant | DIEA | 9.97 mmol, 1.77 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 8 mL | CC#N | C2H3N
product | 5-(3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorophenyl)-1-methyl-1H-tetrazole | C1(=CC=CC=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C=C(C1)F)C1=NN=NN1C)C1=CC=CC=C1 | C28H29F2N5
